US06635763B2
(±)-(2-chlorophenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetonitrile (IV)
To a solution of 8.98 g (86.33 mmole) sodium bisulfite in water (27 mL), o-chlorobenzaldehyde 12.4 g (86.33 mmole) was added resulting in a white precipitate. To the precipitate, 15 g (0.107 moles) of 6,7-dihydro-4H-thieno[3,2-c]pyridine was added, followed by addition of 4.4 g (89.7 mmoles) NaCN (dissolved in 15 mL water). The reaction mixture was heated at 40-50° C. for 6 hrs and was quenched by pouring in water (50 mL). The mixture was extracted with 2×100 mL of ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The yield of the title product is 24 g (97%).

reactant | sodium bisulfite | 86.33 mmole, 8.98 g | S([O-])(O)=O.[Na+]
reactant | o-chlorobenzaldehyde | 86.33 mmole, 12.4 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 6,7-dihydro-4H-thieno[3,2-c]pyridine | 0.107 moles, 15 g | S1C=CC=2CNCCC21 | C7H9NS
reactant | NaCN | 89.7 mmoles, 15 mL, 4.4 g | [C-]#N.[Na+]
solvent | water | 27 mL | O | H2O
product | (±)-(2-chlorophenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetonitrile | ClC1=C(C=CC=C1)C(C#N)N1CC2=C(CC1)SC=C2 | C15H13ClN2S
